US05410054
Step 3: 3-Carbomethoxy-6-hydroxy-1-phenylisoquinoline
A mixture of 3-carbomethoxy-6-methoxy-1-phenylisoquinoline (228 mg) and pyridine hydrochloride (700 mg) was heated at 170° C. for 6 hr. While still hot, H2O (15 mL) was added and the precipitate that formed was collected. The aqueous phase was extracted with EtOAc (5×) and the combined organics were dried (Na2SO4) and concentrated. The residual material was combined with the precipitate and dissolved in MeOH (20 mL) and conc. HCl (10 drops). After refluxing for 60 hr, the mixture was cooled to r.t., NH4OAc buffer was added and the mixture was extracted with EtOAc (3×). The combined organics were washed with buffer, brine, dried (MgSO4) and concentrated. Trituration of the residue with hexane/EtOAc (9:1) provided the title compound as a solid.

reactant | 3-carbomethoxy-6-methoxy-1-phenylisoquinoline | 228 mg | C(=O)(OC)C=1N=C(C2=CC=C(C=C2C1)OC)C1=CC=CC=C1 | C18H15NO3
reactant | pyridine hydrochloride | 700 mg | Cl.N1=CC=CC=C1
solvent | H2O | 15 mL | O | H2O
product | 3-Carbomethoxy-6-hydroxy-1-phenylisoquinoline | C(=O)(OC)C=1N=C(C2=CC=C(C=C2C1)O)C1=CC=CC=C1 | C17H13NO3
